US04198425
3-Hydroxy-3-methyl-7-(p-hydroxy-m-methoxyphenyl)-5-heptanolide
Using 140 mg of 3hydroxy-3-methyl-7-(p-benzyloxy-m-methoxyphenyl)-5-heptanolide, 140 mg of 5% palladium-charcoal and 14 ml of ethyl acetate, the reaction and the purification of the product were carried out according to the method described in Example 27 affording 75 mg of the desired compound melting at 162°-164° C.

reactant | 3hydroxy-3-methyl-7-(p-benzyloxy-m-methoxyphenyl)-5-heptanolide | 140 mg | OC1(CC(=O)OC(C1)CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)C | C22H26O5
catalyst | palladium-charcoal | 140 mg | [Pd] | Pd
solvent | ethyl acetate | 14 ml | C(C)(=O)OCC | C4H8O2
product | 3-Hydroxy-3-methyl-7-(p-hydroxy-m-methoxyphenyl)-5-heptanolide | OC1(CC(=O)OC(C1)CCC1=CC(=C(C=C1)O)OC)C | C15H20O5
